US08283354B2
A solution of 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (301 mg, 0.9 mmol) in CH2Cl2 (10 ml) was stirred under an N2 atmosphere. Triethylamine (0.25 mL, 1.8 mmol) was added, and the solution was cooled to −30° C. A 1 M propyl chloroformate solution (0.1 mL in 0.9 mL CH2Cl2, 0.9 mmol) was added, and the reaction mixture was allowed to warm to room temperature over a period of 30 minutes. After adding CH2Cl2 to the reaction mixture, it was washed 2 times with water, before it was dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-20% EtOAc in CH2Cl2 gave propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (236 mg, 62%). LC/MS: m/z 421 (M+H)+ at 2.54 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.43 (dd, J=8.2, 1.8 Hz, 1H), 8.21 (d, J=8.7 Hz, 1H), 7.58 (s, 1H), 7.39-7.31 (m, 3H), 6.93-6.89 (m, 2H), 4.09-3.86 (m, 6H), 3.78-3.73 (m, 1H), 3.21-3.09 (m, 2H), 2.49 (s, 3H), 2.15-2.09 (m, 1H), 1.83-1.74 (m, 1H), 1.62-1.48 (m, 2H), 0.89-0.86 (m, 3H).

reactant | 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.9 mmol, 301 mg | NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
reactant | Triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | propyl chloroformate | 0.9 mmol, 1 M, 0.1 mL | ClC(=O)OCCC | C4H7ClO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | propyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 236 mg, 62% | C(CC)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C24H28N4O3
